US04332939
If 2,4-difluoro-6-chloro-s-triazine or 2-fluoro-4,6-dichloro-s-triazine is used in place of cyanuric chloride as the starting material, very good yields of pure cyanuric fluoride are possible even with molar ratios of hydrogen fluoride/cyanuric halide which are lower than those mentioned above. For example, when 2,4-difluoro-6-chloro-s-triazine is used the reaction is advantageously carried out with a molar ratio of hydrogen fluoride/2,4-difluoro-6-chloro-s-triazine of 1:1 to 4:1, preferably about 2:1; if 2-fluoro-4,6-dichloro-s-triazine is used as the starting material, advantageous results are obtained with a molar ratio of hydrogen fluoride/2-fluoro-4,6-dichloro-s-triazine of 2:1 to 5:1 and preferably the reaction is carried out using a molar ratio of hydrogen fluoride/2-fluoro-4,6-dichloro-s-triazine of 3:1. When 2,4-difluoro-6-chloro-s-triazine or 2-fluoro-4,6-dichloro-s-triazine is used as the starting material, the reaction is also carried out at temperatures betwen 150° C. and 300° C.; preferably the reaction is carried out at between 180° C. and 220° C., as when cyanuric chloride is used as the starting material. Pure cyanuric fluoride is likewise obtaining in high yield when a mixture of 2,4-difluoro-6-chloro-s-triazine and 2-fluoro-4,6-dichloro-s-triazine or a mixture of cyanuric chloride, 2,4-difluoro-6-chloro-s-triazine and 2-fluoro-4,6-dichloro-s-triazine is employed, in place of cyanuric chloride, 2,4-difluoro-6-chloro-s-triazine or 2-fluoro-4,6-dichloro-s-triazine, as the starting material. In this case the most advantageous molar ratio of hydrogen fluoride/cyanuric halide mixture depends on the mixing ratio of the two or the three cyanuric halide components in the starting mixture. The most advantageous temperature range for the reaction when a mixture of cyanuric halides is used is the same as that when pure cyanuric chloride is employed as the starting material.

reactant | hydrogen fluoride 2-fluoro-4,6-dichloro-s-triazine | F.FC1=NC(=NC(=N1)Cl)Cl
reactant | 2,4-difluoro-6-chloro-s-triazine | FC1=NC(=NC(=N1)F)Cl | C3ClF2N3
reactant | 2-fluoro-4,6-dichloro-s-triazine | FC1=NC(=NC(=N1)Cl)Cl | C3Cl2FN3
reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
product | cyanuric fluoride | N1=C(F)N=C(F)N=C1F | C3F3N3
